US05951964
b. Synthesis of N,N'-bis(2-methyl-2-triphenylmethylthiopropyl) ethylenediamine
Ethylenediamine (1.3 mL, 0.0194 mol, 100 mol %) was added to 2methyl-2-(triphenylmethylthio)propanal (13.86 g, 0.0401 mol, 206 mol %) dissolved in methanol (40 mL) and anhydrous THF (40 mL) under argon, and the pH was adjusted to pH 6 by dropwise addition of acetic acid. The solution was stirred for 20 min at 20° C. Sodium cyanoborohydride (1.22 g, 0.0194 mol, 100 mol %) was added and the reaction was stirred at room temperature for 3 hours. Additional sodium cyanoborohydride (1.08 g) was added and the reaction was stirred at 20° C. for 17 hours. A final portion of sodium cyanoborohydride (1.02 g) was added and the reaction heated at reflux under argon for 6 hours. The reaction was quenched with 0.5 M HCl (100 mL) and extracted with ethyl acetate (2×100 mL). The organic extracts were combined, sequentially washed with 2 M NaOH (60 mL), saturated NaCl solution (60 mL), dried (Na2SO4), and filtered. The solvent was removed under reduced pressure to give 16.67 g of crude product which was crystallized from toluene/hexanes to afford 10.20 g (73% yield) of white crystals of the title compound. The melting point of the resulting compound was determined to be 83-86° C. FABMS analysis yielded an m/z of 721 (MH+). Nuclear magnetic resonance characterization experiments yielded the following molecular signature:

reactant | Ethylenediamine | 0.0194 mol, 1.3 mL | C(CN)N | C2H8N2
reactant | 2methyl-2-(triphenylmethylthio)propanal | 0.0401 mol, 13.86 g | CC(C=O)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H22OS
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | Sodium cyanoborohydride | 0.0194 mol, 1.22 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 1.08 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 1.02 g | C(#N)[BH3-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N'-bis(2-methyl-2-triphenylmethylthiopropyl) ethylenediamine | CC(CNCCNCC(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H52N2S2
